US05175169
9.65 (50 mmol) of 4,4-dimethyl-3-hydroxy-3-[(1,2,4-triazol-1-yl)-methyl]-1-pentine in 20 ml of methylene chloride are stirred for 3 days with 400 ml (150 mmol) of a solution of sodium hypochlorite at room temperature. The reaction mixture is then extracted by shaking with methylene chloride. After drying the organic phase and stripping off the solvent in vacuo, there are obtained 9.8 g (43 mmol; 86% of theory) of 1-chloro-4,4-dimethyl-3-hydroxy-3-[(1,2,4-triazol-1-yl)-methyl]-1-pentine having a melting point of 88° C.

reactant | 4,4-dimethyl-3-hydroxy-3-[(1,2,4-triazol-1-yl)-methyl]-1-pentine | CC(C(C#C)(CN1N=CN=C1)O)(C)C | C10H15N3O
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-4,4-dimethyl-3-hydroxy-3-[(1,2,4-triazol-1-yl)-methyl]-1-pentine | 43 mmol, 9.8 g, 86% | ClC#CC(C(C)(C)C)(CN1N=CN=C1)O | C10H14ClN3O
